US04163846
3-Benzylideneamino-2-methyl-6-(1,1-dimethylethyl)-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one (I)
3-Amino-2-methyl-6-(1,1-dimethylethyl)-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one (2.2 g) prepared as in Example 1 was heated under reflux in benzaldehyde (6.6 ml) for 11/2 hours. The solution was cooled to precipitate the product (2.4 g), m.p. 250°-253° C.

reactant | 3-Amino-2-methyl-6-(1,1-dimethylethyl)-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one | 2.2 g | NC=1N(N=C2N=C(NC(C21)=O)C(C)(C)C)C | C10H15N5O
reactant | benzaldehyde | 6.6 ml | C(C1=CC=CC=C1)=O | C7H6O
product | 3-Benzylideneamino-2-methyl-6-(1,1-dimethylethyl)-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one | C(C1=CC=CC=C1)=NC=1N(N=C2N=C(NC(C21)=O)C(C)(C)C)C | C17H19N5O
